US06166028
[3,5-Dichloro-4-(2-hydroxy-ethoxy)-phenyl]-carbamic acid tert-butyl ester
To a solution of (3,5-dichloro-4-hydroxy-phenyl)-carbamic acid tert-butyl ester (1.0 g) and potassium carbonate (0.55 g) in toluene (20 mL) is added ethylene carbonate (1.6 g) and the mixture is heated to reflux for 3 hours. To the cooled reaction mixture is added 2.5 M aqueous sodium hydroxide (50 mL), and the separated organic layer is then washed successively with water, then saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate. The solvent is then removed by evaporation under reduced pressure and the resulting residue is chromatographed over silica gel (30% ethyl acetate in hexanes is used as the eluant) to provide the desired product as a white foam.

reactant | (3,5-dichloro-4-hydroxy-phenyl)-carbamic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)Cl)O)Cl)=O | C11H13Cl2NO3
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene carbonate | 1.6 g | C1(OCCO1)=O | C3H4O3
reactant | sodium hydroxide | 2.5 M, 50 mL | [OH-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | [3,5-Dichloro-4-(2-hydroxy-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)Cl)OCCO)Cl)=O | C13H17Cl2NO4
